*opamp.net---opamp model template
.ac dec 10 10 10k SWEEP 
VI 1 0 dc 0 ac 5 sin(0 1 1k)
R1 1 3 1K
C1 3 4 1U
R2 4 5 1K
XOP 0 4 5 OPAMP


* OPAMP MACRO MODEL,SINGLE-POLE
* CONNECTION: NON-INVERTING INPUT
*              |  INVERTING INPUT
*              |   |       OUTPUT
*              |   |        |
.SUBCKT OPAMP  1   2        6
* INPUT IMPEDANCE
RIN 1 2 10MEG
* DC GAIN=100K AND POLE=100HZ
* UNITY GAIN = DC GAIN * POLE = 10MHZ
EGAIN 3 0 1 2 100K
RP1 3 4 1K
CP1 4 0 1.5915UF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER 5 0 4 0 1
ROUT 5 6 10
.ENDS

.END
